US06630076B1
A solution of 2′,5′-dimethoxy-4,4″-dipentyl[1,1′;4′,1″]terphenyl (2.15 g) in dichloromethane (40 ml) is cooled to −76° C. and treated with a dropwise addition of 1 M solution of boron tribromide in CH2Cl2 (12 ml). After complete addition the reaction mixture is allowed to reach room temperature and stirring is continued for 6 hours. The reaction mixture is then carefully poured into ice-water (100 g) and stirred for further 20 min. The obtained mixture is then saturated with NaCl and extracted with diethyl ether (3×150 ml). The combined organic extracts are washed with saturated NaCl solution (150 ml), dried over magnesium sulphate and evaporated under reduced pressure to afford 4,4″-dipentyl[1,1′;4′,1″]terphenyl-2′,5′-diol as white crystalline material.

reactant | 2′,5′-dimethoxy-4,4″-dipentyl[1,1′;4′,1″]terphenyl | 2.15 g | COC1=C(C=C(C(=C1)C1=CC=C(C=C1)CCCCC)OC)C1=CC=C(C=C1)CCCCC | C30H38O2
reactant | boron tribromide | B(Br)(Br)Br | BBr3
solvent | dichloromethane | 40 ml | ClCCl | CH2Cl2
solvent | CH2Cl2 | 12 ml | C(Cl)Cl | CH2Cl2
product | 4,4″-dipentyl[1,1′;4′,1″]terphenyl-2′,5′-diol | C(CCCC)C1=CC=C(C=C1)C=1C(=CC(=C(C1)O)C1=CC=C(C=C1)CCCCC)O | C28H34O2
